Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Vancomycin / Penicillins / Iodine-Iodine Containing
 
Attending: ___.
 
Chief Complaint:
AMS, fevers
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ YOM with alcoholic cirrhosis c/b encephalopathy, mesenteric 
and portal vein thrombosis, prior variceal bleeding, frequent 
falls and gait imbalance, possible current alcohol use and 
recent admission for fall with discharge on ___ presents to ED 
with AMS, weakness and fevers. Patient's wife said (via the 
telephone) that he hasn't been acting like him self for sometime 
but that it has gotten worse int he last two to three days. She 
says that he has been behving oddly and making ___ requests. 
Two nights prior to admission he had shaking chills but no 
fever. On the morning of admission he was unable to get out of 
bed and was shaking uncontrollably. His wife called an 
ambulance. 

On arrival to the ___ ED he was febrile to 104.8. His CXR 
showed a large right sided effusion and his UA was positive for 
infection. Lactate was 4.2, WBC was 1.4 and he was tachycardic. 
Given his allergies to vancomycin and penicillin he was given 
levofloxacin and cefepime, 1 g of tylenol and 4 L of NS and 
transferred to the ICU. The ED resident performed an ultrasound 
of his belly and could not identify any tappable ascites. 

On arrival he is dyspnic but alert and cooperative. He endorsed 
the above history. He reports cough but that this is long 
standing and unchanged from baseline. His wife corroborates 
this. He denies headache, photophobia, neck pain, nausea, 
vommiting or diarrhea. 
.
On arrival to the ICU a central line was placed and a 
thoracetesis was performed where 1400cc of straw colored fluid 
was drained off and sent for studies. An A line was attempted 
but was unable to be placed. 
.
.
.
Review of systems:  
(+) Per HPI  

 
Past Medical History:
- Alcoholic cirrhosis diagnosed ___ years ago: Dr. ___
- H/o esophageal variceal bleed ___ years ago during alcohol 
binge
- H/o alcohol abuse, most recently known to be drinking in ___
- Ascites
- Anemia
- Atrial fibrillation, diagnosed ___
- Hyperlipidemia
- Essential hypertension in the past
- Depression
- H/o Small bowel resection for possible diverticulitis
- H/o BPH
- Depression
- Sensorineural hearing 
- H/o Crohn's disease
- History of right sided effusions in the past
 
Social History:
___
Family History:
Father had prostate cancer, died of an MI after a CVA at age ___. 

Mother died at age ___ of "old age."  

 
Physical Exam:
Admission Physical Exam:   
General- Elderly frail gentleman in moderate distress, 
tachypneic 
HEENT- MMM NC AT 
Neck- Supple, no JVD 
CV- RRR no MRG 
Lungs- CTA on the left dullness with barely audible breath 
sounds on the right. No rhonchi, rales or wheezes 
Abdomen- Distended, + BS, non-tender, No shifting dullness, 
rectal exam guian negative brown stool
GU- foley in place 
Ext- WWp no edema or erythema
Neuro- AAOX3 with no astrixes  

DISCHARGE PHYSICAL EXAM
Vitals: 98.2 90/58 77 20 95% RA
GEN: chronically ill-appearing man in NAD, sunken eyes and 
cachectic
HEENT- MMM NC AT  
Neck- Supple, no JVD  
CV- normal rate, regular rhythm, no MRG  
Lungs- Breath sounds still diminished at right base but 
improved.  Left clear to auscultation.
Abdomen- mildly distended, + BS, non-tender, no shifting 
dullness   
Ext- WWP; no edema  
Neuro- AAOX3 with no asterixis 

 
Pertinent Results:
Admission Labs: 
___ 02:40PM BLOOD WBC-1.5*# RBC-4.53* Hgb-14.0 Hct-43.0 
MCV-95 MCH-30.8 MCHC-32.5 RDW-20.4* Plt Ct-78*
___ 02:40PM BLOOD Neuts-79.3* Lymphs-7.9* Monos-11.8* 
Eos-0.3 Baso-0.7
___ 02:40PM BLOOD ___ PTT-33.4 ___
___ 02:40PM BLOOD Glucose-56* UreaN-17 Creat-1.2 Na-131* 
K-3.9 Cl-101 HCO3-20* AnGap-14
___ 02:40PM BLOOD ALT-42* AST-79* AlkPhos-96 TotBili-3.6*
___ 02:40PM BLOOD cTropnT-<0.01
___ 02:40PM BLOOD Albumin-3.1* Calcium-8.4 Phos-1.1* Mg-1.7
___ 05:59PM BLOOD TotProt-4.3* Albumin-2.1* Globuln-2.2 
Calcium-7.4* Phos-0.7* Mg-1.6
___ 05:59PM BLOOD Ethanol-NEG
___ 10:20PM BLOOD Type-MIX Temp-36.8 O2 Flow-5 pO2-39* 
pCO2-27* pH-7.35 calTCO2-16* Base XS--8 Intubat-NOT INTUBA 
Comment-NASAL ___
___ 02:52PM BLOOD Lactate-4.2*

Pertinent Interval Labs: 
___ 05:59PM BLOOD WBC-7.3# RBC-3.56* Hgb-11.4* Hct-33.4* 
MCV-94 MCH-32.0 MCHC-34.1 RDW-21.0* Plt Ct-56*
___ 05:59PM BLOOD Neuts-74* Bands-21* Lymphs-2* Monos-1* 
Eos-0 Baso-0 Atyps-2* ___ Myelos-0
___ 04:01AM BLOOD ___ PTT-47.9* ___
___ 04:01AM BLOOD ___
___ 04:01AM BLOOD Glucose-97 UreaN-15 Creat-1.0 Na-132* 
K-3.6 Cl-104 HCO3-18* AnGap-14
___ 06:15PM BLOOD Lactate-3.8*
___ 10:20PM BLOOD Lactate-4.4*
___ 04:20AM BLOOD Lactate-2.5*

Reports: 
CXR ___
IMPRESSION: 
1.  Moderate right and small left pleural effusions, which are 
significantly worse than two days ago. 
2.  Bilateral lower lobe atelectasis.  Infection in the lower 
lobes cannot be excluded. 

Labs prior to discharge:

___ 05:54AM BLOOD WBC-6.7 RBC-3.74* Hgb-11.6* Hct-34.9* 
MCV-93 MCH-31.0 MCHC-33.2 RDW-20.8* Plt ___
___ 05:54AM BLOOD ___
___ 05:54AM BLOOD Glucose-96 UreaN-15 Creat-0.8 Na-132* 
K-3.9 Cl-100 HCO3-24 AnGap-12
___ 05:54AM BLOOD ALT-43* AST-53* AlkPhos-74 TotBili-1.8*
___ 05:54AM BLOOD Albumin-2.8* Calcium-8.2* Phos-2.3* 
Mg-1.8

MICROBIOLOGY
___ 3:30 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      PROTEUS MIRABILIS.    10,000-100,000 ORGANISMS/ML.. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             PROTEUS MIRABILIS
                             |   
AMPICILLIN------------   <=2 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

___ 4:31 pm PLEURAL FLUID      PLEURAL FLUID. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      2+   ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count.. 

   FLUID CULTURE (Final ___:    NO GROWTH. 

   ANAEROBIC CULTURE (Final ___:    NO GROWTH. 

___ 8:29 pm PLEURAL FLUID      PLEURAL FLUID. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      3+  ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count.. 

   FLUID CULTURE (Final ___:    NO GROWTH. 

   ANAEROBIC CULTURE (Final ___:    NO GROWTH. 

 
Brief Hospital Course:
___ YOM with alcoholic cirrhosis c/b encephalopathy, mesenteric 
and portal vein thrombosis, prior variceal bleeding, frequent 
falls and gait imbalance admitted to the MICU with sepsis, found 
to have UTI and recurrent hepatic hydrothorax.

# Sepsis (with urinary source). Patient febrile, tachycardic and 
leukopenic on arrival with urinary vs pulmonary source and 
lactate of 4 and 20% bands on repeat Diff. His blood pressure 
was close to his base line.  Initially broad differential was 
entertained and he was treated with broad spectrum Linezolid and 
Meropenam given his allergy history.  Patient received 3L IVF in 
ED and 1L albumin upon arrival to the MICU. Patient had a 
central line and a thoracentesis upon arrival to the MICU.  
Pleural fluid demonstrated transudative per Lytes Criteria.  He 
was subsequently found to have Proteus UTI.  Linezolid 
discontinued, meropenem continued until sensitivities came back 
on Proteus, then switched to ciprofloxacin.  No further 
hypotension; in review of outpatient records, SBPs in ___ are 
normal for him. He was treated with 7 day course of antibiotics. 
Blood cultures were negative. CXR initially showed no PNA; 
subsequent study read as a new LUL density that could be 
aspiration or PNA; however, pt remained afebrile, without cough, 
no CP, no leukocytosis, and 2 thoracentesis specimens both 
without evidence of infection, so it was thought unlikely that 
the patient has a true pneumonia an dhe was not treated for 
this.  Home midodrine for known orthostasis at increased dose of 
7.5mg TID was continued.
.  
# Right Pleural Effusion: During this hospitalization had 
thoracentesis x2 both showing transudative fluid, likely 
recurrent hepatic hydrothorax as no evidence of focal 
consolidation to raise suspicion for paraPNA as transudate via 
lights. Effusion re-accumulated after initial thoracentesis 
despite titrating up diuretics.  After second thoracentesis, 
remained small but stable.  Fluid cultures remained negative.  
By definition at this time, his effusion is not refractory given 
it had re-accumulated in setting of holding diuretidcs.  If 
effusion persists/becomes by definition refractory, options 
include repeated thoracentesis, transjugular intrahepatic 
portosystemic shunt placement, pleurodesis, and surgical repair 
of defects in the diaphragm.  Continued furosemide 40mg and 
spironolactone 100mg daily.

# Cirrhosis: No evidence of decompensation during this admission 
as LFTs at recent baseline and patient without encephalopathy.  
Continued 40mg PO Lasix, plus 100mg spironolactone,rifaximin, 
lactulose.
  
# Normocytic Anemia. No evidence of GI source in the MICU with 
guaiac negative stool on presentation. Hct had dropped from high 
___ to 31 initially, likely dilutional in the setting of IVF 
resusciation + bone marrow suppression in setting of concurrent 
infection.  Hemolysis labs with normal LDH, no haptoglobin 
available, Tbili within recent baseline.  Hct improved from 31 
to 38 and has been stable.

# Atrial fibrillation. CHADS20/CHADS2VAS1. Currently patient in 
AF with rates in 60-70s. No anticoagulation in setting of 
comorbidities and frequent falls.

# Hyponatremia. Stable and at recent baseline; likely due to 
cirrhosis with vasodilation and low perceived circulating volume 
to kidneys, leading to release of ADH. Free water restriction to 
2L. 
.  
# Protein calorie malnutrition: Evaluated by nutrition and found 
not to be taking in enough calories. Dobhoff in place and the 
patient is tolerating tube feeds well, now at goal.  ___ was 
kept in the stomach (not post-pyloric) due to repeated 
placements of the tube without success in post-pyloric 
placement.  Given he was tolerating well, kept in stomach.  He 
was monitored closely for signs of re-feeding syndrome. 

# Alcohol abuse: Last drink 2 days prior to admission.  
Initially on CIWA but did not score.  Maintained on MVI, 
Thiamine, Folate.   
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Citalopram 20 mg PO DAILY 
2. Midodrine 5 mg PO TID 
3. Rifaximin 550 mg PO BID 
4. FoLIC Acid 1 mg PO DAILY 
5. Multivitamins W/minerals 1 TAB PO DAILY 
6. Thiamine 100 mg PO DAILY 
7. AndroGel *NF* (testosterone) 1 % (25 mg/2.5 g) Transdermal 
daily 
8. Klor-Con M20 *NF* (potassium chloride) 20 mEq Oral daily 

 
Discharge Medications:
1. Citalopram 20 mg PO DAILY 
2. FoLIC Acid 1 mg PO DAILY 
3. Midodrine 7.5 mg PO TID 
4. Multivitamins W/minerals 1 TAB PO DAILY 
5. Rifaximin 550 mg PO BID 
6. Thiamine 100 mg PO DAILY 
7. Furosemide 40 mg PO DAILY 
8. Lactulose 30 mL PO TID 
9. Spironolactone 100 mg PO DAILY 
10. AndroGel *NF* (testosterone) 1 % (25 mg/2.5 g) Transdermal 
daily 
11. Klor-Con M20 *NF* (potassium chloride) 20 mEq Oral daily 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
1. Sepsis with urinary source
2. Right sided pleural effusion due to hepatic hydrothorax
3. Protein calorie malnutrition
4. Alcoholic cirrhosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Mr. ___,

It truly was a pleasure taking care of you while you were 
admitted at ___.  You were admitted due to feveres and were 
found to have a urinary tract infection which was treated with 
antibiotics.  The rest of your infectious workup was negative.  
You also were found to have fluid around your right lung.  This 
was drained twice and is likely due to translocation of the 
fluid in your abdomen coming up into your chest.  Your diuretics 
were also increased to help decrease the fluid in the chest.  
You were started on tube feeds because it was found that you 
have not been getting enough nutrition, and a feeding tube was 
placed.  You are being discharged to go to a ___ 
___ to help you get stronger after your hospitalization.
 
Followup Instructions:
___